US08669254B2
(S)-6-(4-Chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxylic acid
To a suspension of (S)-methyl 6-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxylate (0.72 g, 2.00 mmol, Eq: 1.00) in tetrahydrofurane (7 ml) was added a 1M LiOH solution in water (2.59 ml, 2.59 mmol, Eq: 1.3) and the reaction mixture was stirred at room temperature for 1 hour. The mixture was concentrated to remove tetrahydrofurane and diluted with water; acidified with 1M hydrochloric acid to pH 2 and extracted with ethyl acetate. The organic phase was dried with MgSO4; filtered, evaporated and dried to constant weight under high vacuum to yield the title compound as white solid (0.70 g, 100%). MS (EI): 345.0 (M−H).

reactant | (S)-methyl 6-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxylate | 2.00 mmol, 0.72 g | ClC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)OC)O[C@H](C(F)(F)F)C | C15H12ClF3N2O3
reactant | LiOH | 1M | [Li+].[OH-]
reactant | water | 2.59 mmol, 2.59 ml | O | H2O
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | (S)-6-(4-Chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxylic acid | 0.70 g, 100% | ClC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)O)O[C@H](C(F)(F)F)C | C14H10ClF3N2O3
